US05250700
5-[3(cyclopentyloxy)-4-methoxyphenyl]-1-methyl-2-[3-(3-pyridinyl)propyl]-3-pyrazolidinone quarter dichloromethane
To a solution of 5-[3-(cyclopentyloxy)-4-methoxy-phenyl]-1-methyl-3-pyrazolidinone (1.10 gms, 3.79 mmol), NaH (0.15 gms, 60%, 3.75 mmol), and dimethylformamide (15 mls) is added a solution of 1-bromo-3-(3-pyridinyl)propane [see Mioque, M., and Gautier, J. A. (1961). C. R. Hebd. Seances Acad. Sci. 252, 2416.] (1.66 gms, 8.30 mmol) in dimethylformamide (5 mls). The reaction is immersed in an oil bath (65° C.). After 20 hours dimethylformamide is removed in vacuo , the residue is diluted in methylene chloride, washed with saturated aqueous NaHCO3 and dried over Na2SO4 - The product was concentrated and chromatographed (SiO2 : 1) 1:1 ethyl acetate:hexane; 2) 2:1 ethyl acetate:hexane; 3) ethyl acetate; 4) 3% methanol:ethyl acetate) to yield 0.85 gms (52%) of an oil. 1H NMR (DMSO-d6, 400 MHz) δ 8.40 (m,2H), 7.55 (m,1H), 7.25 (m,1H), 6.95 (s,1H), 6.85 (m,1H), 5.75 (s,0.5H) 4.70 (m,1H), 4.00 (m,1H), 3.70 (s,3H), 3.60 (m,1H), 3.10 (m,1H), 2.55 (s,3H), 2.45 (m,4H) 1.75 (m,4H), 1.65 (m,4H), 1.50 (m,2H). IR(KBR, cm-) 1685 (C=O).

reactant | 5-[3-(cyclopentyloxy)-4-methoxy-phenyl]-1-methyl-3-pyrazolidinone | 3.79 mmol, 1.10 gms | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(NN1C)=O | C16H22N2O3
reactant | NaH | 3.75 mmol, 0.15 gms | [H-].[Na+]
reactant | 1-bromo-3-(3-pyridinyl)propane | BrCCCC=1C=NC=CC1 | C8H10BrN
solvent | dimethylformamide | 5 mls | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 mls | CN(C=O)C | C3H7NO
product | 5-[3(cyclopentyloxy)-4-methoxyphenyl]-1-methyl-2-[3-(3-pyridinyl)propyl]-3-pyrazolidinone | 0.85 gms, 52% | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(N(N1C)CCCC=1C=NC=CC1)=O | C24H31N3O3
